US04655883
Preparation of 2,3-dihydro-2,2-dimethyl-5-dimethoxyphosphoryl-7-methylaminocarbonyloxybenzofuran
0.1 mole of carbofuran (2,3-dihydro-2,2-dimethyl-7-methylaminocarbonyloxybenzofuran) were reacted with trimethylphosphite analogously to Example 1a. The product was obtained in the form of an oil in a yield of 26%.

reactant | carbofuran | 0.1 mole | CC1(OC2=C(C1)C=CC=C2OC(=O)NC)C | C12H15NO3
reactant | trimethylphosphite | COP(OC)OC | C3H9O3P
product | 2,3-dihydro-2,2-dimethyl-5-dimethoxyphosphoryl-7-methylaminocarbonyloxybenzofuran | yield of 26% | CC1(OC2=C(C1)C=C(C=C2OC(=O)NC)P(=O)(OC)OC)C | C14H20NO6P
